US08044196B2
2-(2-Aminoanilino)-5-methylthiophene-3-carbonitrile (10.0 g) is taken in N-methyl-piperazine (60 ml) and N-methyl-piperazine hydrochloride (24 gm). The solution is heated at 120° C. until completion of reaction. The reaction mass is cooled and dichloromethane (100 ml) and water is added. The mixture is cooled up to room temperature and dichloromethane layer is separated. 50 ml dichloromethane is evaporated and cyclohexane is added in clear solution. On Cooling the solution, solid is separated out, which is filtered and dried under vacuum to get Olanzapine Form I. (Purity >99.6%)

reactant | 2-(2-Aminoanilino)-5-methylthiophene-3-carbonitrile | 10.0 g | NC1=C(NC=2SC(=CC2C#N)C)C=CC=C1 | C12H11N3S
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | water | O | H2O
reactant | N-methyl-piperazine | 60 ml | CN1CCNCC1 | C5H12N2
solvent | N-methyl-piperazine hydrochloride | 24 gm | Cl.CN1CCNCC1
product | Olanzapine | CC1=CC2=C(S1)NC=3C=CC=CC3N=C2N4CCN(CC4)C | C17H20N4S
